US07166597B2
d) 2-(4-Fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-cyanopyrazolo[1,5-a]pyridine
A mixture of 2-(4-fluorophenyl)-3-acetyl-6-cyanopyrazolo[1,5-a]pyridine (1.6 g, 5.6 mmol) and dimethylformamide-dimethylacetal (15 mL) was stirred and heated at 130° C., under N2, overnight. The solution was cooled and the resulting solid was collected by filtration and rinsed with acetone. The filtrate was evaporated and the resulting solid was purified using chromatography. The product solids were combined to afford the title compound as a brown solid, 1.3 g (68%). 1H NMR (d6-DMSO) showed a mixture of isomers. MS (ES+) m/z 335 (M++H), 264 (M+−70).

reactant | 2-(4-fluorophenyl)-3-acetyl-6-cyanopyrazolo[1,5-a]pyridine | 5.6 mmol, 1.6 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C#N)=C1C(C)=O | C16H10FN3O
reactant | dimethylformamide-dimethylacetal | 15 mL | COC(N(C)C)OC | C5H13NO2
product | 2-(4-Fluorophenyl)-3-(3-(dimethylamino)-2-propenoyl)-6-cyanopyrazolo[1,5-a]pyridine | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C#N)=C1C(C=CN(C)C)=O | C19H15FN4O
